US08440666B2
2-[3-Amino-6-oxo-4-{[(1R,2R,3R,5S)-2,6,6-trimethylbicyclo[3.1.1]hept-3-yl]amino}pyridazin-1(6H)-yl]-N-(pyridin-4-ylmethyl)acetamide
2-[5-Bromo-3-nitro-6-oxo-4-{[(1R,2R,3R,5S)-2,6,6-trimethylbicyclo[3.1.1]hept-3-yl]amino}pyridazin-1(6H)-yl]-N-(pyridin-4-ylmethyl)acetamide (11 mg, 0.0211 mmol) in methanol (1 mL) was stirred with 10 mass % palladium-carbon (about 5 mg) in a hydrogen atmosphere at room temperature for 2.5 hours. The reaction solution was filtered through celite and evaporated under reduced pressure. The resulting residue was purified by silica gel column chromatography (chloroform/methanol=10/1) to give the desired product (1.5 mg, 17% yield).

reactant | 2-[5-Bromo-3-nitro-6-oxo-4-{[(1R,2R,3R,5S)-2,6,6-trimethylbicyclo[3.1.1]hept-3-yl]amino}pyridazin-1(6H)-yl]-N-(pyridin-4-ylmethyl)acetamide | 0.0211 mmol, 11 mg | BrC1=C(C(=NN(C1=O)CC(=O)NCC1=CC=NC=C1)[N+](=O)[O-])N[C@H]1[C@@H]([C@@H]2C([C@H](C1)C2)(C)C)C | C22H27BrN6O4
reactant | hydrogen | [H][H] | H2
solvent | methanol | 1 mL | CO | CH4O
catalyst | palladium-carbon | about 5 mg | [C].[Pd]
product | 2-[3-Amino-6-oxo-4-{[(1R,2R,3R,5S)-2,6,6-trimethylbicyclo[3.1.1]hept-3-yl]amino}pyridazin-1(6H)-yl]-N-(pyridin-4-ylmethyl)acetamide | 1.5 mg, 17% yield | NC1=NN(C(C=C1N[C@H]1[C@@H]([C@@H]2C([C@H](C1)C2)(C)C)C)=O)CC(=O)NCC2=CC=NC=C2 | C22H30N6O2
